US07304161B2
Tert-butylethylketone (5 g) was mixed with tert-butylcarbazate (6.4 g, 1.1 eq.) in 30 mL of methanol with 3 drops of acetic acid at room temperature. A solid formed within one hour; more methanol was added, and the mixture was stirred at room temperature for three days to produce N′-(1-ethyl-2,2-dimethyl-propylidene)-hydrazinecarboxylic acid tert-butyl ester. 1H NMR (CDCl3, 500 MHz) δ (ppm): 7.5 (br, 1H), 2.23 (q, 2H)), 1.51 (s, 9H), 1.15 (s, 9H), 1.1 (t, 3H).

reactant | Tert-butylethylketone | 5 g | C(C)(C)(C)C(=O)CC | C7H14O
reactant | tert-butylcarbazate | 6.4 g, 1.1 eq. | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | N′-(1-ethyl-2,2-dimethyl-propylidene)-hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)NN=C(C(C)(C)C)CC | C12H24N2O2
